US04518597
6-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one and 4-(4-acetamidophenylmercapto)-butylmesylate.

reactant | 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | OC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C11H13NO3
reactant | 4-(4-acetamidophenylmercapto)-butylmesylate | C(C)(=O)NC1=CC=C(C=C1)SCCCCCS(=O)(=O)[O-]
product | 6-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | C(C)(=O)NC1=CC=C(C=C1)SCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C23H28N2O4S
